US05574153
10 ml of 1,2-ethanedithiol (0.12 moles) and 115 ml of trifluoro diboro diethyletherate are added to a solution of 22 g (0.12 moles) of 2-formyl-phenylacetic acid methyl ester in 100 ml of methylene chloride at 20° C. The system is agitated at 20° C. for 48 hours. 152 ml of 5% sodium hydroxide are added, the phases are separated, the organic phase is dried over magnesium sulphate and the solvent is evaporated under vacuum at +30° C. In this manner 29.7 g of 2-(1,3-dithiolan-2-yl)-phenylacetic acid methyl ester are obtained in the form of a yellow liquid. This crude product is saponified without the need for further purification.

reactant | 1,2-ethanedithiol | 0.12 moles, 10 ml | C(CS)S | C2H6S2
reactant | 2-formyl-phenylacetic acid methyl ester | 0.12 moles, 22 g | COC(CC1=C(C=CC=C1)C=O)=O | C10H10O3
reactant | sodium hydroxide | 152 ml | [OH-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(1,3-dithiolan-2-yl)-phenylacetic acid methyl ester | 29.7 g, Yield 58.6% | COC(CC1=C(C=CC=C1)C1SCCS1)=O | C12H14O2S2
